* Z:\mnt\design.r\spice\examples\1490A.asc
V1 +V 0 5
R1 OUT N001 50K
C1 N001 0 .1µ
R2 OUT N002 59K
R3 +V N002 100K
R4 N002 0 100K
XU1 N002 N001 +V 0 OUT LT1490A
.tran 1 startup
* Square Wave Oscillator
.lib LTC.lib
.backanno
.end
